US07335658B2
6-[4-(2-TRIFLUOROMETHYLFURAN-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-trifluoromethylfuran-3-carboxylic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (71% yield). 1H NMR (300 MHz, CDCl3) δ 8.04, 7.96, 7.56, 7.00, 6.54, 3.9-3.7, 3.6-3.5, 1.49, 0.79-0.66, 0.47-0.41, 0.09-0.04. 13C NMR (300 MHz, CDCl3) δ 6161.78, 160.01, 145.60, 145.05, 138.14, 137.57, 127, 15, 121.74, 120.54, 112.54, 110.88, 46.33, 44.59, 41.43, 39.67, 34.52, 8.64, 4.23. MS (ES+) m/z 438.2 (M+1).

reactant | 2-trifluoromethylfuran-3-carboxylic acid | FC(C=1OC=CC1C(=O)O)(F)F | C6H3F3O3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-TRIFLUOROMETHYLFURAN-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1=C(OC=C1)C(F)(F)F | C20H22F3N5O3
